US08835420B2
(S)-2,4-Diamino-6-((1-(1-methyl-6-morpholino-1H-pyrrolo[3,2-b]pyridin-5-yl)ethyl)amino)pyrimidine-5-carbonitrile
(S)-4-Amino-6-((1-(1-methyl-6-morpholino-1H-pyrrolo[3,2-b]pyridin-5-yl)ethyl)amino)-2-(methylsulfonyl)pyrimidine-5-carbonitrile (108 mg, 0.237 mmol) in dioxane (3 mL) was combined with 0.5 M ammonia in dioxane (1.419 mL, 0.710 mmol) to give a yellow solution, which was stirred overnight at 60° C. The product was purified by LC/MS using a 5-30% CH3CN gradient in H2O with 0.035% formic acid. The pure fractions were combined and lyophilized to give a formic acid salt of the title compound as a white solid (14 mg, 15%). 1H NMR (400 MHz, DMSO-d6) δ ppm 1.43-1.59 (m, 3 H), 2.74-2.87 (m, 2 H), 3.03-3.17 (m, 2 H), 3.70-3.99 (m, 8 H), 5.76-5.91 (m, 1 H), 6.52-6.69 (m, 1H), 7.45-7.48 (br s, 2 H), 7.52-7.62 (m, 1 H), 7.75-7.79 (br s, 2 H), 7.82-7.91 (m, 1 H); ESI-MS m/z [M+H]+ calc'd for C19H23N9O, 394.4; found 394.5.

reactant | (S)-4-Amino-6-((1-(1-methyl-6-morpholino-1H-pyrrolo[3,2-b]pyridin-5-yl)ethyl)amino)-2-(methylsulfonyl)pyrimidine-5-carbonitrile | 0.237 mmol, 108 mg | NC1=NC(=NC(=C1C#N)N[C@@H](C)C1=C(C=C2C(=N1)C=CN2C)N2CCOCC2)S(=O)(=O)C | C20H24N8O3S
reactant | ammonia | 0.5 M | N | H3N
solvent | dioxane | 3 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 0.710 mmol, 1.419 mL | O1CCOCC1 | C4H8O2
product | (S)-2,4-Diamino-6-((1-(1-methyl-6-morpholino-1H-pyrrolo[3,2-b]pyridin-5-yl)ethyl)amino)pyrimidine-5-carbonitrile | 14 mg, 15% | NC1=NC(=C(C(=N1)N)C#N)N[C@@H](C)C1=C(C=C2C(=N1)C=CN2C)N2CCOCC2 | C19H23N9O
